US09422282B2
a) Preparation of 6-[5-(4-Fluoro-benzyl)-[1,3,4]oxadiazol-2-yl]-5-hydroxy-3-methyl-3H-pyrimidin-4-one by acid Catalyzed Debenzylation
Reaction of 5-benzyloxy-6-[5-(4-fluoro-benzyl)-[1,3,4]oxadiazol-2-yl]-3-methyl-3H-pyrimidin-4-one and a 1:1 mixture of TFA/CH2Cl2 gave the debenzylated product in reasonable yield. Results are summarized below.

reactant | 5-benzyloxy-6-[5-(4-fluoro-benzyl)-[1,3,4]oxadiazol-2-yl]-3-methyl-3H-pyrimidin-4-one | C(C1=CC=CC=C1)OC=1C(N(C=NC1C=1OC(=NN1)CC1=CC=C(C=C1)F)C)=O | C21H17FN4O3
reactant | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 6-[5-(4-Fluoro-benzyl)-[1,3,4]oxadiazol-2-yl]-5-hydroxy-3-methyl-3H-pyrimidin-4-one | FC1=CC=C(CC2=NN=C(O2)C2=C(C(N(C=N2)C)=O)O)C=C1 | C14H11FN4O3
